US08729105B2
Preparation of (5-Trifluoromethyl-isoxazol-3-yl)-methanol
To a solution of 7.5 g 5-trifluoromethyl-isoxazole-3-carboxylic acid ethyl ester in 85 mL ethanol was added 3.66 g sodium hydride portion wise at RT. The reaction mixture was stirred at RT for 16 h. 100 mL 1M HCl were added drop by drop under ice-bath cooling. The reaction mixture was extracted with 250 mL diethyl ether and 200 mL sat. NaCl solution/water mixture 1:1. The aqueous layer was back-extracted with diethyl ether (2×100 mL). The org. layers were washed with sat. NaCl solution/water mixture 1:1 (2×200 mL). The combined org. layer was dried over Na2SO4, filtered off and concentrated in vacuo to yield 5.8 g of the title compound as brown oil. MS (EI): 167 (M+H)+.

reactant | 5-trifluoromethyl-isoxazole-3-carboxylic acid ethyl ester | 7.5 g | C(C)OC(=O)C1=NOC(=C1)C(F)(F)F | C7H6F3NO3
reactant | sodium hydride | 3.66 g | [H-].[Na+]
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | ethanol | 85 mL | C(C)O | C2H6O
product | (5-Trifluoromethyl-isoxazol-3-yl)-methanol | 5.8 g | FC(C1=CC(=NO1)CO)(F)F | C5H4F3NO2
